US07081538B1
(5RS)-3-(3-Fluoro-4-piperazin-1-ylphenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole
(5RS)-3-(3,4-Difluorophenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole (530 mg, 1.89 mM) was treated with piperazine using essentially the conditions of Example 4, except that the reaction conditions were 140° for 4 hours, and work-up did not include an acid wash. Crude product was chromatographed on a 50 g silica Mega Bond Elut® column, eluting with a mixture of dichloromethane/methanol/ammonia 90:10:1. Relevant fractions were combined to give the desired product (601 mg). MS (ESP): 347 (MH+) for C17H11FN4O3

reactant | (5RS)-3-(3,4-Difluorophenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole | 1.89 mM, 530 mg | FC=1C=C(C=CC1F)C1=NOC(C1)COC1=NOC=C1 | C13H10F2N2O3
reactant | piperazine | N1CCNCC1 | C4H10N2
product | (5RS)-3-(3-Fluoro-4-piperazin-1-ylphenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole | 601 mg | FC=1C=C(C=CC1N1CCNCC1)C1=NOC(C1)COC1=NOC=C1 | C17H19FN4O3
